US08492378B2
methyl 1-(4-methoxyphenyl)-1H-benzimidazole-6-carboxylate
A suspension of methyl 1H-benzimidazole-5-carboxylate (10.4 g, 58.8 mmol), (4-methoxyphenyl)boronic acid (17.9 g, 118 mmol), copper(II) acetate (16.0 g, 88.2 mmol), pyridine (9.54 mL, 118 mmol) and molecular sieves 4A (24.0 g) in dichloromethane (240 mL) was stirred at room temperature for 6 hr. The reaction mixture was filtered, and the filtrate was washed with 5% aqueous ammonia and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (dichloromethane/ethyl acetate=5/1) and recrystallized from hexane/ethyl acetate to give the title compound (2.15 g, yield 13%) as colorless crystals.

reactant | methyl 1H-benzimidazole-5-carboxylate | 58.8 mmol, 10.4 g | N1C=NC2=C1C=CC(=C2)C(=O)OC | C9H8N2O2
reactant | (4-methoxyphenyl)boronic acid | 118 mmol, 17.9 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | pyridine | 118 mmol, 9.54 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 240 mL | ClCCl | CH2Cl2
catalyst | copper(II) acetate | 88.2 mmol, 16.0 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | methyl 1-(4-methoxyphenyl)-1H-benzimidazole-6-carboxylate | 2.15 g, yield 13% | COC1=CC=C(C=C1)N1C=NC2=C1C=C(C=C2)C(=O)OC | C16H14N2O3
